US09226916B2
c) [(3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
A mixture of 15.1 g (41 mmol) (3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidine-3-carboxylic acid and 11.6 g (90 mmol) DIPEA in 100 mL t-butanol was heated to 55° C. and 12.4 g (45 mmol) diphenylphosphoryl azide was added. The mixture was heated to 80° C. for 3 h and evaporated. The residue was subjected to column chromatography on silica eluting with a gradient formed from ethyl acetate and heptane to yield after evaporation of the product containing fractions 5.7 g (34%) of the title compound as off-white solid. MS m/e: 405.3 [M+H]+.

reactant | (3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidine-3-carboxylic acid | 41 mmol, 15.1 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC(=C(C=C1)Cl)F)C(=O)O | C18H17ClFNO2
reactant | DIPEA | 90 mmol, 11.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 45 mmol, 12.4 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | [(3S,4R)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)F)CC1=CC=CC=C1)=O | C22H26ClFN2O2
